US09403808B2
6-(3-Chloro-phenyl)-5-cyclopropyl-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]amide
5-Bromo-6-(3-chloro-phenyl)-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide (0.100 g, 229 μmol), and tetrakis-(triphenyl-phosphine)palladium (13.2 mg, 11.4 μmol) were dissolved in THF (2.5 mL). Cyclopropylzinc(II)bromide (0.5M in THF, 1800 μl, 900 μmol) was added drop by drop at 0° C. and the reaction mixture was stirred at room temperature for 1.5 hours and at reflux temperature overnight. The mixture was partitioned between water and ethyl acetate and the organic phase was dried with MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 10 g, 5% to 40% ethyl acetate in n-heptane) to give the desired product (24 mg, 26%) as white solid; MS (EI): 398.2 (M+H). As side product 11 mg of 6-(3-chloro-phenyl)-5-cyclopropyl-pyrazine-2-carboxylic acid (cyano-dimethyl-methyl)-amide (Example 2) was isolated.

reactant | 5-Bromo-6-(3-chloro-phenyl)-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | 229 μmol, 0.100 g | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(N=C1)Br)C1=CC(=CC=C1)Cl | C17H15BrClN5O2
reactant | Cyclopropylzinc(II)bromide | 900 μmol, 0.5M, 1800 μl | [Br-].C1(CC1)[Zn+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 6-(3-Chloro-phenyl)-5-cyclopropyl-pyrazine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]amide | 24 mg, 26% | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(N=C1)C1CC1)C1=CC(=CC=C1)Cl | C20H20ClN5O2
